* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE11\LTspice\astable.asc
R1 N001 c1 {Rc}
R2 N001 out {Rc}
R3 N001 b1 {Rr}
R4 N001 b2 {Rr}
C1 b1 c1 {Cr}
C2 out b2 {Cr}
V1 N001 0 {Vcc}
Q1 out b1 0 0 TBJ
Q2 c1 b2 0 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1 startup
.meas tran Tf1 find time when V(out)=Vcc/2 fall 3
.meas tran Tr1 find time when V(out)=Vcc/2 rise 3
.meas tran Tf2 find time when V(out)=Vcc/2 fall 4
.meas tran Tr2 find time when V(out)=Vcc/2 rise 4
.meas tran th param Tf1-Tr1
.meas tran tl param Tr2-Tf1
.meas tran fosc param 1/(Tf2-Tf1)
.param Vcc=25 Rc=2k Rr=100k Cr=0.05u
.model TBJ NPN(BF=150 TF=400E-10 TR=400E-10)
.backanno
.end
